US07495016B2
7.2 Preparation of 1-benzyloxy-2-cyclopentyloxy-4-(2-nitro-vinyl)-benzene
A mixture of 4-benzyloxy-3-cyclopentyloxybenzaldehyde (6.3 g, 21.3 mmol) in AcOH (13 mL) and CH3NO2 (5.8 mL, 106.5 mmol) was created. NH4OAc (3.3 g, 42.5 mmol) was added and the mixture was heated under reflux for 2 h. After cooling to r.t., the mixture was extracted with CH2Cl2. The organic layer separated and washed with water, sat.

reactant | 4-benzyloxy-3-cyclopentyloxybenzaldehyde | 21.3 mmol, 6.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC1CCCC1 | C19H20O3
reactant | CH3NO2 | 106.5 mmol, 5.8 mL | C[N+](=O)[O-] | CH3NO2
solvent | AcOH | 13 mL | CC(=O)O | C2H4O2
product | 1-benzyloxy-2-cyclopentyloxy-4-(2-nitro-vinyl)-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=C[N+](=O)[O-])OC1CCCC1 | C20H21NO4
